Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Gait instability, leans to left
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: 
___ gentleman, past medical history of hepatitis C,
presents for diplopia and gait instability.

He was in his usual state of health this morning, so he brushed
his teeth, ate his breakfast and smoked his cigarettes without
any difficulties.  At 630, he had a sudden onset of double
vision, dysarthria, right-sided head pressure, and gait
instability.  He describes vertical diplopia that was worse at a
distance.  He noticed it was also worse with his eyes towards 
the
right.  He closed one eye and open the other eye to test whether
it is binocular or monocular, but he had binocular diplopia.  He
also noticed that he had slurred speech, which lasted for about
30 minutes.  He also had difficulty with his gait and felt this
uncoordinated.  His wife noted that when he was walking he would
appear to the left side.  He also noticed that his right eyelid
was droopy and he could not open it, but this resolved (unclear
when).  His wife also thought that his mouth looked.  But she is
unable to determine how his mouth had changed.  He decided to go
to work, so his wife went with him and as he was driving, he was
swerving at the same time.  While he walked into the restaurant
where he works while he was walking he was hitting the walls and
veering more to the left side.  His coworkers recommend he go to
the hospital for evaluation.  He was seen outside hospital as
tele stroke, and Noncon head CT that was negative, but he is
outside of the window for TPA.  He was sent to ___ for
further evaluation.

On my visit, he notes that he continues to have diplopia which 
is
worse on right end gaze and better with left end gaze.  It is
vertical, and resolves when he closes one eye.  He also 
continues
to endorse gait instability as well as right-sided head 
pressure.
The right-sided head pressure has occurred in the past.  He
denies any light or sound sensitivity.  He denies nausea or
vomiting.  He denies any changes with position.  Of note he
denies vertigo.  He endorses cough, dry mouth and increased
urination.

 
Past Medical History:
Hepatitis C 
Denies HTN, HLD or DM (Notes he has "low blood pressures per his
PCP)

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
EXAN ON ADMISSION:
------------------

Vitals: 
97.3 78 151/79 12 98% RA 
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR
Pulmonary: breathing comfortably on room air 
Abdomen: Soft
Extremities: Warm, no edema

Neurologic Examination: Via ___ Interpreter

- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact to
stroke card objects (per interpreter).  No paraphasias.  No
dysarthria. Normal prosody. Able to register 3 objects and 
recall
___ at 5 minutes. No apraxia. No evidence of hemineglect. No
left-right confusion. Able to follow both midline and
appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. No Skew. Vertical Diplopia 
is
maximal on R gaze (but not at extreme R end gaze). When R eye
covered, initially states upper image disappears but on repeat
testing, states bottom image disappears. VF full to number
counting. EOMI, no nystagmus. V1-V3 without deficits to light
touch bilaterally. No ptosis. No facial movement asymmetry.
Hearing intact to finger rub bilaterally.  Palate elevation
symmetric. SCM/Trapezius strength ___ bilaterally. Tongue
midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: Subtle dysmetria with finger to nose and finger
follow testing bilaterally (L>>R), but unclear if this is
secondary to double vision as at times, there is no dysmetria.
Good speed and intact cadence with rapid alternating movements.

- Gait: No truncal ataxia. Normal initiation. Upon standing, 
wide
base. Normal stride length and arm swing, but veers to the left
with walking. Positive Romberg to left.

EXAM ON DISCHARGE
MS: intact
CN: vertical diplopia, worse on R gaze, 
Motor: ___
Sensation: Intact
Coord: Subtle dysmetria on L FNF, finger tapping without 
deficits
Gait: + Romberg and Veering to left. Cannot walk along straight 
path in tandem.

 
Pertinent Results:
___ 05:35AM BLOOD WBC-6.0 RBC-4.69 Hgb-14.8 Hct-43.8 MCV-93 
MCH-31.6 MCHC-33.8 RDW-12.5 RDWSD-42.4 Plt ___
___ 05:35AM BLOOD Plt ___
___ 12:35PM BLOOD UreaN-17 Creat-0.9
___ 01:40PM BLOOD ALT-14 AlkPhos-72 TotBili-0.5
___ 05:35AM BLOOD Calcium-9.6 Phos-3.5 Mg-2.0
___ 01:40PM BLOOD Triglyc-97 HDL-60 CHOL/HD-3.7 
LDLcalc-141*
___ 01:40PM BLOOD TSH-4.5*
___ 05:35AM BLOOD Free T4-1.0

IMAGING RESULTS:
CTA Head and Neck ___:
Head CT: No acute intracranial change. Right paranasal sinus 
disease with 
aerosolized secretions in the right sphenoid as well as mild 
mucosal 
thickening the bilateral maxillary sinuses. Consider a component 
of acute 
sinusitis. 
CTA head and neck: The right subclavian artery is ectatic, 
measuring 1.5 cm.  The bilateral ICA and vertebral arteries are 
patent. Intracranially, there are patent PCOMMs and a diminutive 
basilar artery. There is no evidence of occlusion or aneurysm. 
  
There are cystic and cavitary changes with nodularity in the 
right lung apex, which is likely infectious in etiology. 
Consider bacterial, typical or atypical, if appropriate. 

MRI Head without Contrast: ___:
1. Acute/early subacute right thalamic infarct as described 
above. 
2. Mild paranasal sinus mucosal thickening as described. 

TTE ___:
The left atrium is normal in size. No thrombus/mass is seen in 
the body of the left atrium. The interatrial septum is 
aneurysmal. No atrial septal defect is seen on color flow 
Doppler, but there is early appearance of agitated 
saline/microbubbles in the left atrium/ventricle at rest most 
consistent with an atrial septal defect or stretched patent 
foramen ovale (though a very proximal intrapulmonary shunt 
cannot be fully excluded). Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). No masses or thrombi are seen in the left 
ventricle. There is no ventricular septal defect. The diameters 
of aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No masses or vegetations are seen on 
the aortic valve. No aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. No mass or vegetation is seen on the mitral 
valve. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion.   

___ Ultrasound ___:
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with past medical history 
of hepatitis C,
who presented with gait instability (leaning to the left) and 
vertical diplopia (most prominent on left gaze). CTA Head and 
Neck did not show any significant stenosis to cause this stroke. 
Echocardiogram shows no left atrium enlargement and no clot, but 
with + bubble study. ___ negative. Pelvic MRV considered but 
not performed due to low suspicion. 

Cardioembolism is a possibility and he will need to be monitored 
with ___ of hearts/heart monitor but he has no insurance so 
this cannot be placed at this time.

He was started on Atorvastatin for LDL 141. 
TSH 4.5 but FT4 normal at 1.0. 
HbA1C 5.1

TRANSITIONAL ISSUES
- ___ of hearts if he can afford it in the outpatient setting
- Started on Atorvastatin
- Started aspirin 81mg daily
- Continue Smoking Cessation Counseling

PLEASE NOTE:

***HE WILL ONLY BE ABLE TO RECEIVE  TWO WEEKS OF FREE 
ATORVASTATIN, ASA. TO OBTAIN ADDITIONAL FREE CARE MEDICATION, 
PLEASE CALL FINANCIAL COUNSELING AT ___
- Outpatient follow-up with Driving Rehabilitation Specialist 
and with Neuro-opthalmology as appropriate if his visual 
symptoms do not resolve. 

He was discharged to home with an eye patch and instructions to 
avoid driving until his condition resolves.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*12 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day at 
bedtime Disp #*30 Tablet Refills:*12 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Thalamic Infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

 You were hospitalized due to symptoms of double vision, veering 
to left, slurred speech resulting from an ACUTE ISCHEMIC STROKE, 
a condition where a blood vessel providing oxygen and nutrients 
to the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- Echocardiogram with PFO -patent foramen ovale
- High cholesterol - LDL 141, Chol 220
- Smoking 

 We are changing your medications as follows:  
- Starting aspirin 81 mg daily
- Starting Atorvastatin 80mg at night

UNFORTUNATELY DUE TO HEALTH CARE INSURANCE MATTERS, YOU ARE ONLY 
RECEIVING TWO WEEKS OF MEDICATION. TO OBTAIN ADDITIONAL FREE 
CARE MEDICATION, PLEASE CALL FINANCIAL COUNSELING AT 
___.
 
Please followup with Neurology and your primary care physician.  


 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___